US07875606B2
A solution of 36.8 g (187.6 mmoles) of 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde dissolved in 200 ml of methanol was added, with ice-cooling, into a solution of 3.9 g (102.6 mmoles) of sodium borohydride dissolved in 500 ml of methanol. The mixture was stirred at 0° C. for 30 minutes to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water and extraction with ethyl acetate was conducted. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein, to obtain 35.4 g (yield: 95.4%) of (5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol.

reactant | 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 187.6 mmoles, 36.8 g | FC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4F4N2O
reactant | sodium borohydride | 102.6 mmoles, 3.9 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 500 ml | CO | CH4O
product | (5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol | 35.4 g, yield: 95.4% | FC1=C(C(=NN1C)C(F)(F)F)CO | C6H6F4N2O
